US05958942
4,5-Dihydro-4-[4-(tert-butoxycarbonylamino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 13.56 g (153.8 mmol) of 1,4-diaminobutane and 15.00 g (116.1 mmol) of N,N-diisopropylethylamine was added a solution of 25.96 g (76.9 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo [1,2-a]pyridine in 150 ml of acetonitrile. The mixture was heated for 0.5 hour under reflux. After cooling, the resulting insolubles were filtered off. To the filtrate was added 67.54 g (309.5 mmol) of di-tert-butyl dicarbonate. The mixture was stirred for 0.5 hour at room temperature. The solvent was distilled off. To the residue was added chloroform, and the mixture was washed with water, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate), followed by crystallization from ethyl acetate and n-hexane. The crystalline product was collected by filtration, washed with n-hexane and dried to give 21.72 g of the object product (78.3%, colorless solid), m.p.118.0-119.0° C.

reactant | 1,4-diaminobutane | 153.8 mmol, 13.56 g | NCCCCN | C4H12N2
reactant | N,N-diisopropylethylamine | 116.1 mmol, 15.00 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo [1,2-a]pyridine | 76.9 mmol, 25.96 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | di-tert-butyl dicarbonate | 309.5 mmol, 67.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4-[4-(tert-butoxycarbonylamino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 21.72 g, 78.3% | C(C)(C)(C)OC(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C18H22N4O4
